US06878722B2
Step 29b: Preparation 1-propyl-cyclopropylsulfonamide
Step 29b) This compound was made from Compound 29a in 80% yield (25.15 g) from N-tert-butyl-(1-propyl) cyclopropylsulfonamide (42.2 g, 193 mmol) according to the procedure of Steps 3Id (Example 2) described in the synthesis of 1-methylcyclopropylsulfonamide. The compound was recrystallized from EtOAc/hexanes as a white solid: 1H NMR CHLOROFORM-D) δ ppm 0.85 (m, 2H), 0.94 (t, J=7.32 Hz, 3H), 1.36 (m, 2H), 1.47 (m, 2H), 1.87 (m, 2H), 4.42 (s, 2H).

reactant | N-tert-butyl-(1-propyl) cyclopropylsulfonamide | 193 mmol, 42.2 g | C(C)(C)(C)N(S(=O)(=O)C1CC1)CCC | C10H21NO2S
reactant | 1-methylcyclopropylsulfonamide | CC1(CC1)S(=O)(=O)N | C4H9NO2S
product | 1-propyl-cyclopropylsulfonamide | 80% yield | C(CC)C1(CC1)S(=O)(=O)N | C6H13NO2S
